US07125904B2
(R)-5-(3-aminopropyl)-1-(6,8-difluorochroman-3-yl)-1,3-dihydroimidazole-2-thione hydrochloride
A stirred mixture of (R)-6,8-difluorochroman-3-ylamine hydrochloride (0.11 g, 0.50 mmol), 2-[5-(tert-Butyldimethylsilanyloxy)-4-oxopentyl]isoindole-1,3-dione (0.19 g, 0.55 mmol), potassium thiocyanate (0.055 g, 0.55 mmol), water (0.009 g, 0.50 mmol) and acetic acid (0.15 mL, 2.5 mmol) in ethyl acetate (1.5 mL) was refluxed for 7 hours, cooled to the room temperature, washed by sodium bicarbonate solution, dried over anhydrous magnesium sulphate and evaporated in vacuo. The residue was purified by column chromatography on silica using ethyl acetate-petroleum ether mixture as eluent. The resulting oil (0.10 g) was dissolved in the mixture of isopropanol (2.5 mL) and THF (1 mL). Water (0.4 mL) and sodium borohydride (0.038 g, 1.0 mmol) were added at room temperature and the mixture was stirred for 1.5 hours. Acetic acid (0.3 ml, 5 mmoj) was added and the solution was refluxed for two hours and evaporated in vacuo to dryness. The residue was taken up in acetone, the solid was filtered off, and the filtrate was acidified with 2N HCl solution in ethyl acetate. The precipitate was collected and washed with acetone to afford crystals, which decomposed without melting.

reactant | (R)-6,8-difluorochroman-3-ylamine hydrochloride | 0.50 mmol, 0.11 g | Cl.FC=1C=C2C[C@H](COC2=C(C1)F)N
reactant | 2-[5-(tert-Butyldimethylsilanyloxy)-4-oxopentyl]isoindole-1,3-dione | 0.55 mmol, 0.19 g | [Si](C)(C)(C(C)(C)C)OCC(CCCN1C(C2=CC=CC=C2C1=O)=O)=O | C19H27NO4Si
reactant | potassium thiocyanate | 0.55 mmol, 0.055 g | [S-]C#N.[K+]
reactant | sodium borohydride | 1.0 mmol, 0.038 g | [BH4-].[Na+]
solvent | ethyl acetate | 1.5 mL | C(C)(=O)OCC | C4H8O2
solvent | Acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
solvent | Water | 0.4 mL | O | H2O
solvent | acetic acid | 2.5 mmol, 0.15 mL | C(C)(=O)O | C2H4O2
solvent | water | 0.50 mmol, 0.009 g | O | H2O
product | (R)-5-(3-aminopropyl)-1-(6,8-difluorochroman-3-yl)-1,3-dihydroimidazole-2-thione hydrochloride | Cl.NCCCC1=CNC(N1[C@H]1COC2=C(C=C(C=C2C1)F)F)=S | InChI=1S/C15H17F2N3OS.ClH/c16-10-4-9-5-12(8-21-14(9)13(17)6-10)20-11(2-1-3-18)7-19-15(20)22;/h4,6-7,12H,1-3,5,8,18H2,(H,19,22);1H/t12-;/m1./s1
